US08937071B2
A mixture of 4-amino-2-trifluoromethyl-benzoic acid (15 g, 73.1 mmol), HOBT (14.56 g, 95 mmol), EDC (16.82 g, 88 mmol), Et3N (20.38 mL, 146 mmol), 1-ethyl-piperazine (8.35 g, 73.1 mmol) in DCM (200 mL) was stirred at 25° C. for 2 h. To the mixture was added DCM (200 mL) and then washed with H2O, 2 mol/L NaOH (2×150 mL) and brine. The organic layer was dried over Na2SO4 and concentrated to give a off white solid of (4-amino-2-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone (20 g, 65.2 mmol, 89.0% yield): 1H NMR (400 MHz, CDCl3) δ: 7.07 (d, J=8.0 Hz, 1H), 6.92 (d, J=2.4 Hz, 1H), 6.79 (dd, J=2.0, 8.0 Hz, 1H), 3.99 (s, 2H), 3.84-3.76 (m, 2H), 3.25-3.23 (m, 2H), 2.50-2.39 (m, 4H), 2.33-2.31 (m, 2H), 1.08 (t, J=7.2 Hz, 3H); ES-LCMS m/z 302 (M+H).

reactant | 4-amino-2-trifluoromethyl-benzoic acid | 73.1 mmol, 15 g | NC1=CC(=C(C(=O)O)C=C1)C(F)(F)F | C8H6F3NO2
reactant | HOBT | 95 mmol, 14.56 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 88 mmol, 16.82 g
reactant | Et3N | 146 mmol, 20.38 mL | CCN(CC)CC | C6H15N
reactant | 1-ethyl-piperazine | 73.1 mmol, 8.35 g | C(C)N1CCNCC1 | C6H14N2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (4-amino-2-trifluoromethyl-phenyl)-(4-ethyl-piperazin-1-yl)-methanone | 65.2 mmol, 20 g, 89.0% yield | NC1=CC(=C(C=C1)C(=O)N1CCN(CC1)CC)C(F)(F)F | C14H18F3N3O
